US05817839
Lauric acid (50 g, 0.25 mol) and magnesium oxide (12.6 g, 0.3125 mol) were charged in a 500 ml round bottom flask equipped with an air condenser having a length of 50 cm, and then the mixture was heated at 300° to 320° C. for 8 hours using a heating mantle. After the completion of the reaction, the reaction solution was cooled. Then, 250-300 ml of n-hexane was added and the reaction solution was sufficiently dissolved in n-hexane with heating. The resulting solution was filtered in a hot state and about 200 ml of an aqueous 4N-sulfuric acid solution was added to the filtrate, followed by sufficiently stirring to decompose unreacted magnesium laurate. The hexane layer was separated, washed with water, and then washed with 200 ml of an aqueous 5% NaOH solution to remove dissolved lauric acid. The hexane layer was washed again with water, dried over anhydrous sodium sulfate and filtered, and then hexane was removed by using a rotary evaporator to isolate a reaction product. The resulting product was recrystallized from a mixed solvent of ethanol and benzene in the ratio of 2:1 to obtain 32.9 g of 12-tricosanone as a white flakelike crystal (yield 77.8%).

reactant | Lauric acid | 0.25 mol, 50 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | magnesium oxide | 0.3125 mol, 12.6 g | [O-2].[Mg+2]
solvent | n-hexane | CCCCCC | C6H14
solvent | n-hexane | 250-300 ml | CCCCCC | C6H14
product | 12-tricosanone | 32.9 g | CCCCCCCCCCCC(CCCCCCCCCCC)=O | C23H46O
